US06670359B2
S)-N-[5-(4-Methylpiperazin-1-yl)-3,4 dihydro-2H-1-benzopyran-3-yl]-4-(piperazin-1-yl)benzamide
(S)-N-[5-(4-Methylpiperazin-1-yl)-3,4 dihydro-2H-1-benzopyran-3-yl]-4-(4-benzylpiperazin-1-yl)benzamide (1.7 g, 3.2 mmol) was dissolved in methanol (100 mL). Palladium (10%) on activated carbon (510 mg) and ammonium formate (1.6 g, 26 mmol) were added and the reaction mixture was stirred at 50° C. for 19 h. The catalyst was filtered off and the solvent was evaporated in vacuo to give 1.3 g (92% yield) of the title compound as a pale yellow solid: mp >102° C. sinters; EIMS (70 eV) m/z (relative intensity) 435 (8, M+); [α]22D−102° (c 0.15, chloroform).

reactant | (S)-N-[5-(4-Methylpiperazin-1-yl)-3,4 dihydro-2H-1-benzopyran-3-yl]-4-(4-benzylpiperazin-1-yl)benzamide | 3.2 mmol, 1.7 g | CN1CCN(CC1)C1=CC=CC2=C1C[C@@H](CO2)NC(C2=CC=C(C=C2)N2CCN(CC2)CC2=CC=CC=C2)=O | C32H39N5O2
reactant | ammonium formate | 26 mmol, 1.6 g | C(=O)[O-].[NH4+]
solvent | methanol | 100 mL | CO | CH4O
catalyst | Palladium | [Pd] | Pd
product | N-[5-(4-Methylpiperazin-1-yl)-3,4 dihydro-2H-1-benzopyran-3-yl]-4-(piperazin-1-yl)benzamide | 1.3 g, 92% yield | CN1CCN(CC1)C1=CC=CC2=C1CC(CO2)NC(C2=CC=C(C=C2)N2CCNCC2)=O | C25H33N5O2
